US09376392B2
To a solution of (R)-2-(5-bromo-7-methylquinolin-6-yl)-2-hydroxyethyl 4-methylbenzenesulfonate (299 mg, 0.69 mmol) in THF (7.5 mL) at 0° C. was added potassium tert-butoxide (0.76 mL of 1.0 M solution in THF, 0.76 mmol). After stirring for 1 h, the reaction mixture was quenched with saturated aqueous NH4Cl, and then diluted with EtOAc. The organic phase was washed with water and brine, dried over Na2SO4, filtered and concentrated and purified by flash column chromatography (silica gel, 0 to 100% ethyl acetate/hexanes) to give (R)-5-bromo-7-methyl-6-(oxiran-2-yl)quinoline. LCMS-ESI+ (m/z): [M+H]+ calc'd for C12H11BrNO: 264.00; Found: 264.1.

reactant | (R)-2-(5-bromo-7-methylquinolin-6-yl)-2-hydroxyethyl 4-methylbenzenesulfonate | 0.69 mmol, 299 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](O)C=1C(=C2C=CC=NC2=CC1C)Br | C19H18BrNO4S
reactant | potassium tert-butoxide | 0.76 mmol, 1.0 M, 0.76 mL | CC(C)([O-])C.[K+]
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
product | (R)-5-bromo-7-methyl-6-(oxiran-2-yl)quinoline | BrC1=C2C=CC=NC2=CC(=C1[C@H]1OC1)C | C12H10BrNO
